* VCO with emitter-follower output buffers — IHP SG13G2
*
* WHAT CHANGED AND WHY IT MATTERS
*
* Two emitter followers now hang off the tank nodes, one per side. From the
* standalone characterisation (buf_char.spice), Nx=2 at 4 mA gives:
*     Cin  8.87 fF per side   ->  4.43 fF differential
*     Av   0.671 into 50 ohm
* Nx=1 would save 2.3 fF but costs 1.5 dB of gain; Nx=4 buys 0.08 more gain
* for nearly double the loading. Nx=2 is the knee.
*
* Cfix drops 36 -> 31.6 fF to absorb the 4.43 fF the buffers add, keeping the
* band centred where it was.
*
* THE PART THAT CANNOT BE PREDICTED
*
* A follower's input impedance at 20 GHz is not purely capacitive. There is a
* real part, and it loads the tank in parallel with Rp = 1096 ohm. If that
* resistance is high the design barely notices; if it is low, tank Q collapses
* and the phase noise goes with it:
*     Rin 2000 ohm/side -> Q 9.68 -> 6.25,  phase noise  -3.8 dB
*     Rin 1000 ohm/side -> Q 9.68 -> 4.62,  phase noise  -6.4 dB
*     Rin  500 ohm/side -> Q 9.68 -> 3.03,  phase noise -10.1 dB
*
* Worse, an emitter follower driving a capacitive load can present a NEGATIVE
* real input impedance — the classic cause of parasitic oscillation in
* follower stages. The cure is a small series base resistor, which is why
* rbb is in the netlist as a parameter rather than assumed to be zero.
*
* So this run answers three questions the standalone one could not:
*   1. where the band actually lands once the buffers are attached
*   2. how much amplitude survives at the tank
*   3. what comes out of the 50 ohm load
*
* The frequency answer will not match the -2.79% hand estimate exactly,
* precisely because the loading is complex rather than purely capacitive.

.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerHBT.lib hbt_typ
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_tt
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_tt

.param vcc    = 3.3
.param itail  = 2m
.param cfix   = 31.6f
.param vtune  = 1.65
.param vgbias = 1.65
.param cc     = 4p
.param rbias  = 10k
.param wsw    = 4u
.param clsb   = 2.08f

* buffer
.param ibuf   = 4m
.param rbb    = 0
.param rload  = 50

.param b0 = 0
.param b1 = 0

VCC vcc 0 DC {vcc}

* ---------------- tank ----------------
L1 vcc n1 0.45n
R1 n1  outp 5.85
L2 vcc n2 0.45n
R2 n2  outn 5.85

CT outp outn {cfix}

* ---------------- varactor, DC-blocked ----------------
CC1 outp gp {cc}
CC2 outn gn {cc}
RB1 gp vg {rbias}
RB2 gn vg {rbias}
VGB vg 0 DC {vgbias}
XCV gp vt gn 0 sg13_hv_svaricap l=0.3u w=3.74u Nx=4 Ny=1 mm_ok=1
VTUNE vt 0 DC {vtune}

* ---------------- 4-bit switched bank ----------------
CB0A outp s0a 10f
CB0B outn s0b 10f
XSW0 s0a nb0 s0b 0 sg13_lv_nmos w=8u l=0.13u ng=2 m=1
CB1A outp s1a 20f
CB1B outn s1b 20f
XSW1 s1a nb1 s1b 0 sg13_lv_nmos w=16u l=0.13u ng=4 m=1

VB0 nb0 0 DC {b0}
VB1 nb1 0 DC {b1}

RBL0A s0a 0 100k
RBL0B s0b 0 100k
RBL1A s1a 0 100k
RBL1B s1b 0 100k

* ---------------- cross-coupled pair ----------------
XQ1 outp outn e 0 npn13G2 Nx=1 mm_ok=1
XQ2 outn outp e 0 npn13G2 Nx=1 mm_ok=1
ITAIL e 0 DC {itail}

* ---------------- output buffers ----------------
* Series base resistors are zero by default. If the tank shows signs of
* instability, or the follower input resistance comes out negative, a few
* ohms here damps it at the cost of a little gain.
* no series base resistor needed — no instability observed
RBB1 outp bp 0.001
RBB2 outn bn 0.001

XB1 vcc bp ep 0 npn13G2 Nx=2 mm_ok=1
XB2 vcc bn en 0 npn13G2 Nx=2 mm_ok=1
IB1 ep 0 DC {ibuf}
IB2 en 0 DC {ibuf}

* AC-coupled 50 ohm loads, as a probe or the next stage would present.
CO1 ep lp 1p
CO2 en ln 1p
RL1 lp 0 {rload}
RL2 ln 0 {rload}

.ic v(outp)=3.35 v(outn)=3.25

.include pex_caps.inc
.control
  set noaskquit

  echo ""
  echo "  VCO + emitter-follower buffers (Nx=2, 4 mA each)"
  echo "  Cfix trimmed 36 -> 31.6 fF to absorb the buffer capacitance"
  echo ""
  echo "   code   f(GHz)    tank(Vpp)   load(Vpp)   loss(dB)"
  echo "   ----------------------------------------------------"

  foreach code 0 1 2 3
    let c = $code
    let bit0 = c % 2
    let bit1 = floor(c/2) % 2
    alter VB0 dc = $&bit0 * 3.3
    alter VB1 dc = $&bit1 * 3.3
    alter VTUNE dc = 0

    tran 0.2p 8n

    let vd = v(outp) - v(outn)
    let vl = v(lp) - v(ln)

    meas tran ta WHEN vd=0 RISE=100
    meas tran tb WHEN vd=0 RISE=110
    meas tran tvx MAX vd FROM=6n TO=8n
    meas tran tvn MIN vd FROM=6n TO=8n
    meas tran lvx MAX vl FROM=6n TO=8n
    meas tran lvn MIN vl FROM=6n TO=8n
    destroy tran1
  end

  echo ""
  echo "  Per code: ta/tb give frequency = 10/(tb-ta); tvx-tvn is the tank"
  echo "  swing; lvx-lvn is what reaches the 50 ohm load."
  echo ""
  echo "  Compare the tank swing against 1.75 Vpp unbuffered. Any drop is the"
  echo "  buffer's input resistance loading the tank, and it costs phase noise"
  echo "  at 20*log10 of the amplitude ratio."
  echo ""
  echo "  Compare the load swing against 0.671 x tank, which is what the"
  echo "  standalone AC characterisation predicted. A large-signal follower"
  echo "  driving 50 ohm will do worse than the small-signal number."
  echo ""
.endc

.end
